datasets/10k_Mayr_OG.csv
SMILES Labelled
"CC(C)(C)C1=CC=CC(C(C)(C)C)=C1[N:12]1[C:11](=[CH:10]C2=CC=C([N+](=O)[O-])C=C2)[N:63](C2=C(C(C)(C)C)C=CC=C2C(C)(C)C)[CH:64]=[CH:65]1.C[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1>>CC(C)(C)C1=CC=CC(C(C)(C)C)=C1[N+:12]1=[C:11]([CH:10](C2=CC=C([N+](=O)[O-])C=C2)[C:20]([C:31]2=[CH:32][CH:33]=[C:34](C)[CH:35]=[CH:36]2)([C:41]2=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[N:63](C2=C(C(C)(C)C)C=CC=C2C(C)(C)C)[CH:64]=[CH:65]1 10,11=10,20;12=11,12"
"CC[O:72][C:61](/[CH:10]=[C:11](/C1=CC=CC=C1)[O-:12])=[O:62].F[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[C:44](F)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[C:54](F)[CH:55]=[CH:56]2)[CH:36]=[CH:35]1>>CC[O:72][C:61]([CH:10]([C:11](C1=CC=CC=C1)=[O:12])[C:20]([C:31]1=[CH:32][CH:33]=[C:34](F)[CH:35]=[CH:36]1)([C:41]1=[CH:42][CH:43]=[C:44](F)[CH:45]=[CH:46]1)[C:51]1=[CH:52][CH:53]=[C:54](F)[CH:55]=[CH:56]1)=[O:62] 10,11=10,20;12=11,12"
C1=CC=C(CC2C[O:72][C:61](=[O:62])[N-:10]2)C=C1.C[CH+:20][C:31]1=[C:32](C)[CH:33]=[C:34](C)[CH:35]=[C:36]1C>>C[CH:20]([N:10]1C(CC2=CC=CC=C2)C[O:72][C:61]1=[O:62])[C:31]1=[C:32](C)[CH:33]=[C:34](C)[CH:35]=[C:36]1C 10=20
"CC12C3(C)C4(C)C5(C)C1(C)[Cr-3:11]2345(C#[O+])(C#[O+])(C#[O+])[H:10].CO[C:54]1=[CH:53][CH:52]=[C:51]([CH:20]=[C:21]2[S:32](=[O:33])(=[O:34])C3=C(C=CC=C3)[S:42]2(=[O:43])=[O:44])[CH:55]=[CH:56]1>>CC12C3(C)C4(C)C5(C)C1(C)[Cr-2:11]2345(C#[O+])(C#[O+])C#[O+].CO[C:54]1=[CH:53][CH:52]=[C:51]([CH:20]([H:10])[C-:21]2[S:32](=[O:33])(=[O:34])C3=C(C=CC=C3)[S:42]2(=[O:43])=[O:44])[CH:55]=[CH:56]1 10,11=10,20;20,21=21"
"C1=CC=C([C+:20]2[S:31]CCC[S:41]2)C=C1.CC1(C)[O:72][C:61](=[O:62])[C:10](CC2=CC=C([N+](=O)[O-])C=C2)=[C:11]([O-:12])[O:82]1>>CC1(C)[O:72][C:61](=[O:62])[C:10](CC2=CC=C([N+](=O)[O-])C=C2)([C:20]2(C3=CC=CC=C3)[S:31]CCC[S:41]2)[C:11](=[O:12])[O:82]1 10,11=10,20;12=11,12"
"CO[C:34]1=[CH:33][CH:32]=[C:31](/[CH:20]=[C:21](\C[N+]2=CC=C(N(C)C)C=C2)[C:22](C)=[O:23])[CH:43]=[CH:44]1.C[Sn:63](C)(C)[CH2:62][CH:11]([H:10])[CH2:72][Si:73](C)(C)C>>CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([H:10])[C:21](C[N+]2=CC=C(N(C)C)C=C2)=[C:22](C)[O-:23])[CH:43]=[CH:44]1.C[Sn:63](C)(C)[CH2:62][CH+:11][CH2:72][Si:73](C)(C)C 10,11=10,20;20,21=21,22;22,23=23"
"C1=CC=C([S:61](/[CH:10]=[C:11]2\[CH:12]=[CH:13]/[C:14](=[N+:15](/[O-:16])[O-:86])[CH:63]=[CH:62]2)(=[O:62])=[O:72])C=C1.CC(C)[O:33][C:22](/[N:21]=[N:20]/[C:41](=[O:42])[O:43]C(C)C)=[O:23]>>CC(C)[O:33][C:22](=[N:21][N:20]([CH:10]([C:11]1=[CH:12][CH:13]=[C:14]([N+:15](=[O:16])[O-:86])[CH:63]=[CH:62]1)[S:61](C1=CC=CC=C1)(=[O:62])=[O:72])[C:41](=[O:42])[O:43]C(C)C)[O-:23] 10,11=10,20;12,13=11,12;14,15=13,14;16=15,16;20,21=21,22;22,23=23"
C1=CC=C([C+:20]2[S:31]CCC[S:41]2)C=C1.CC[O:82][C:71]([C-:10]1CCCCCC[C:62]1=[O:61])=[O:72]>>CC[O:82][C:71]([C:10]1([C:20]2(C3=CC=CC=C3)[S:31]CCC[S:41]2)CCCCCC[C:62]1=[O:61])=[O:72] 10=20
"CC[O:34][C:32]([C:21](=[CH:20][C:41]1=[CH:42][CH:43]=[C:44](N(C)C)[CH:45]=[CH:46]1)[C:22](=[O:23])[O:39]CC)=[O:33].CC[O:62]/[C:11](=[CH:10]/[C:71]1=[CH:72][C:73](Cl)=[CH:74][CH:83]=[CH:82]1)[O-:12]>>CC[O:34][C:32]([C:21]([CH:20]([CH:10]([C:11](=[O:12])[O:62]CC)[C:71]1=[CH:72][C:73](Cl)=[CH:74][CH:83]=[CH:82]1)[C:41]1=[CH:42][CH:43]=[C:44](N(C)C)[CH:45]=[CH:46]1)=[C:22]([O-:23])[O:39]CC)=[O:33] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C[Si:63](C)(C)[O:12][C:11]1=[CH:10]CC2=CC=CC=C21.F[C:53]1=[CH:54][CH:55]=[CH:56][C:51]([C+:20]([C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)=[CH:52]1>>C[Si:63](C)(C)[O+:12]=[C:11]1C2=CC=CC=C2C[CH:10]1[C:20]([C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)([C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1)[C:51]1=[CH:52][C:53](F)=[CH:54][CH:55]=[CH:56]1 10,11=10,20;12=11,12"
"C1=CC=C([S:32]([CH:21]=[CH2:20])(=[O:33])=[O:34])C=C1.COC1=CC=C([P:10](C2=CC=C(OC)C=C2)C2=CC=C(OC)C=C2)C=C1>>COC1=CC=C([P+:10](C2=CC=C(OC)C=C2)(C2=CC=C(OC)C=C2)[CH2:20][CH-:21][S:32](C2=CC=CC=C2)(=[O:33])=[O:34])C=C1 10=20;20,21=21"
"CC[O:34][C:32]([C:21](=[CH:20][C:41]1=[CH:42][C:43](Cl)=[CH:44][CH:45]=[CH:46]1)[C:22](=[O:23])[O:39]CC)=[O:33].CC[O:73][C:61](/[C:10](Cl)=[C:11](\[O-:12])[O:82]CC)=[O:62]>>CC[O:34][C:32]([C:21]([CH:20]([C:10](Cl)([C:11](=[O:12])[O:82]CC)[C:61](=[O:62])[O:73]CC)[C:41]1=[CH:42][C:43](Cl)=[CH:44][CH:45]=[CH:46]1)=[C:22]([O-:23])[O:39]CC)=[O:33] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CC[O:82]/[C:11](=[CH:10]/[C:61]1=[CH:62][CH:63]=[N:64][CH:73]=[CH:72]1)[O-:12].CN(C)[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]=[C:21]2[C:22](=[O:23])[O:39]C(C)(C)[O:33][C:31]2=[O:32])[CH:46]=[CH:45]1>>CC[O:82][C:11]([CH:10]([CH:20]([C:21]1=[C:22]([O-:23])[O:39]C(C)(C)[O:33][C:31]1=[O:32])[C:41]1=[CH:42][CH:43]=[C:44](N(C)C)[CH:45]=[CH:46]1)[C:61]1=[CH:62][CH:63]=[N:64][CH:73]=[CH:72]1)=[O:12] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
